***
* Complementary Buffer With Deadtime
***
.subckt ComplementaryBufferWithDeadtime I P N Va=5V Tdead=1u
B1 0 P i={(idt(1,0,inv(V(I)))>=Tdead)*Va} tripdt={tripdt} Rpar=1 Cpar=10n
B2 0 N i={(idt(1,0,buf(V(I)))>=Tdead)*Va} tripdt={tripdt} Rpar=1 Cpar=10n
.param  tripdt={1*Tdead}
.ends ComplementaryBufferWithDeadtime
